US08877760B2
3-(3-(2H-1,2,3-triazol-2-yl)phenylamino)-5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)pyrazine-2-carboxamide
The compound 3-(3-(2H-1,2,3-triazol-2-yl)phenylamino)-5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)pyrazine-2-carbonitrile (41 mg) was dissolved in EtOH (2 mL) and DMSO (1 mL), aq. 1N NaOH (1.0 mL) and aq. H2O2 (50%, 1.0 mL) were added. The mixture was stirred at room temperature for 30 min. HOAc (0.5 mL) was added. The mixture was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (38 mg). MS 430.3 (M+H); UV 202.3, 262.1, 299.7, 358.5 nm; t 0.488 min.

reactant | 3-(3-(2H-1,2,3-triazol-2-yl)phenylamino)-5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)pyrazine-2-carbonitrile | 41 mg | N=1N(N=CC1)C=1C=C(C=CC1)NC=1C(=NC=C(N1)N[C@H]1[C@H](C(CCC1)(F)F)N)C#N | C19H19F2N9
reactant | NaOH | 1N, 1.0 mL | [OH-].[Na+]
reactant | H2O2 | 1.0 mL | OO | H2O2
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 3-(3-(2H-1,2,3-triazol-2-yl)phenylamino)-5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)pyrazine-2-carboxamide | 38 mg | N=1N(N=CC1)C=1C=C(C=CC1)NC=1C(=NC=C(N1)N[C@H]1[C@H](C(CCC1)(F)F)N)C(=O)N | C19H21F2N9O
